US06245716B1
Then, acetoacetate t-butyl ester in an amount of 8.9 g (56 mmol) was added into 80 ml toluene solution containing magnesium ethylate in an amount of 6.4 g (56 mmol) and the resulting mixture was stirred for 2 hours at 80° C., cooled down to an ambient temperature and added dropwise with 15 ml toluene solution of 3,6-dimethyl-2-nitrobenzoyl chloride in an amount of 10.3 g. The obtained mixture was stirred for 2 hours under heating and reflux, added with 10% sulfuric acid and extracted with ethyl acetate. The resulting organic solvent layer was washed with water and dried with anhydrous magnesium sulfate, and the solvent therein was distillated out under reduced pressure. The residue obtained was dissolved in 100 ml benzene and added with p-toluene sulfonic acid in an amount of 4.9 g (26 mmol), and the mixture was stirred for 2 hours under heating and reflux. Then, the reacted solution was washed with water and dried with anhydrous magnesium sulfate, and the solvent in the reacted solution was distillated out under reduced pressure. The residue obtained was purified by means of silica gei column chromatography to obtain 3,6-dimethyl-2-nitrobenzoylacetone in an amount of 3.9 g.

reactant | acetoacetate t-butyl ester | C(C)(C)(C)OC(CC(=O)C)=O | C8H14O3
reactant | magnesium ethylate | CC[O-].CC[O-].[Mg+2]
reactant | 3,6-dimethyl-2-nitrobenzoyl chloride | CC=1C(=C(C(=O)Cl)C(=CC1)C)[N+](=O)[O-] | C9H8ClNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 3,6-dimethyl-2-nitrobenzoylacetone | CC=1C(=C(C(=O)CC(C)=O)C(=CC1)C)[N+](=O)[O-] | C12H13NO4
